US08383654B2
Step 7: 2-tert-Butylsulfanylmethyl-4-nitro-benzoic acid ethyl ester
2-Bromomethyl-4-nitro-benzoic acid ethyl ester (8.0 g, 27.8 mmol) and 2-methyl-2-propanethiol (3.74 mL, 33.3 mmol) were combined in MeCN (100 mL) at 0° C. Sodium hydride (60% in mineral oil; 1.39 g, 34.8 mmol) was added, and the reaction was stirred for 5 minutes at 0° C., and then at room temperature until no starting material was seen by analytical tlc. The mixture was quenched by adding ice chips and diluted with H2O (100 mL) and 1N aqueous HCl (30 mL), and then extracted with EtOAc. The combined organic layers were washed with H2O, dried, filtered, and concentrated, and the residue was purified by silica gel chromatography to give the title compound.

reactant | 2-Bromomethyl-4-nitro-benzoic acid ethyl ester | 27.8 mmol, 8.0 g | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C10H10BrNO4
reactant | 2-methyl-2-propanethiol | 33.3 mmol, 3.74 mL | CC(C)(C)S | C4H10S
reactant | Sodium hydride | 34.8 mmol, 1.39 g | [H-].[Na+]
solvent | MeCN | 100 mL | CC#N | C2H3N
product | 2-tert-Butylsulfanylmethyl-4-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])CSC(C)(C)C)=O | C14H19NO4S
